US05753673
While heating a solution of 40 g of 2-isopropylaminobenzyl alcohol in 200 ml toluene at 100° C., 58 g in total of activated manganese dioxide was added several times to the solution. After stirring at the same temperature for 30 minutes, insoluble matters were filtered off. The solvent was distilled off to give 2-isopropylaminobenzaldehyde.

reactant | 2-isopropylaminobenzyl alcohol | 40 g | C(C)(C)NC1=C(CO)C=CC=C1 | C10H15NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 2-isopropylaminobenzaldehyde | C(C)(C)NC1=C(C=O)C=CC=C1 | C10H13NO
